US03957794
To a mixture of 310 ml. (0.440 mole) of vinylmagnesium chloride (from Ventron Corp., 1.42 molar in tetrahydrofuran) and 250 ml. of methylene chloride, which had been previously prepared and kept at -74°C., a solution of 14.2 g. (0.0565 mol) of 4-formyl-3-carbomethoxy-2-phenylthiazolidine dissolved in 50 ml. of methylene chloride was added over a period of 7-10 minutes, while the temperature of the reaction was kept at -60° to -70°C. After addition, the reaction mixture was stirred for 30 minutes at the same temperature while 30 ml. of methanol were slowly added, followed by addition of 150 ml. of saturated ammonium chloride. When the addition was finished, the mixture was allowed to reach room temperature and extracted with 3 × 300 ml. of methylene chloride. The combined organic phases were washed with 2 × 200 ml. of water, dried with sodium sulfate, and evaporated to give 13.7 g. (87% yield) of crude 4-(1-hydroxyprop-2-en-1-yl)-3-carbomethoxy-2-phenylthiazolidine which was obtained as thick oil. This contains a small amount of starting material which, for future separation purposes, is convenient to convert into its corresponding alcohol. To this end, the crude product, dissolved in 100 ml. of tetrahydrofuran was slowly added to a solution of 0.9 g. (0.0503 mol) of sodium borohydride in 75 ml. of water and 75 ml. of tetrahydrofuran. After addition, the resulting yellow emulsion was stirred for 2 hours at room temperature. 55 ml. of 1N hydrochloric acid were then slowly added, the tetrahydrofuran removed in vacuo and the residue extracted with 3 × 100 ml. of ethyl acetate. The combined organic phases were washed with 100 ml. of 5% sodium bicarbonate solution and finally with 2 × 100 ml. of water. Drying with magnesium sulfate and evaporating the solvent gave 13.0 g. of the desired product, which can be used as such for the further transformations or it can be further purified by chromatography on silica gel, using benzene/ethyl acetate (1:1) as eluent. 4.1 g. (corresponding to a yield of 26% from a starting material) of very pure product was obtained as pale yellow thick oil.

reactant | vinylmagnesium chloride | 0.440 mole, 1.42 molar | C(=C)[Mg]Cl
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 4-formyl-3-carbomethoxy-2-phenylthiazolidine | 0.0565 mol | C(=O)C1N(C(SC1)C1=CC=CC=C1)C(=O)OC | C12H13NO3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 4-(1-hydroxyprop-2-en-1-yl)-3-carbomethoxy-2-phenylthiazolidine | 87% yield | OC(C=C)C1N(C(SC1)C1=CC=CC=C1)C(=O)OC | C14H17NO3S
